US08859580B2
(2R,6S)-3-Benzyl-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]a zocine-10-carbonitrile
Tetrakis(triphenylphosphine)palladium(0) (2.79 g) is added to a mixture of (2R,6S)-trifluoro-methanesulfonic acid 3-benzyl-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-10-yl ester (7.30 g) and zinc cyanide (2.85 g) in dimethylformamide (35 mL) kept in argon atmosphere. The resulting mixture is stirred at 100° C. for 6 h. After cooling to room temperature, water (300 mL), concentrated ammonia solution (10 mL), and ethyl acetate (150 mL) are added and the forming precipitate is separated by filtration. The organic layer of the filtrate is separated and the aqueous layer is extracted twice with ethyl acetate. The combined organic phases are washed with brine and dried (MgSO4). The solvent is removed under reduced pressure and the residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 19:1) to give the product.

reactant | (2R,6S)-trifluoro-methanesulfonic acid 3-benzyl-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-10-yl ester | 7.30 g | C(C1=CC=CC=C1)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=CC=C3OS(=O)(=O)C(F)(F)F | C23H26F3NO3S
reactant | water | 300 mL | O | H2O
reactant | ammonia | 10 mL | N | H3N
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 2.79 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 2.85 g | [C-]#N.[Zn+2].[C-]#N
product | (2R,6S)-3-Benzyl-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]a zocine-10-carbonitrile | C(C1=CC=CC=C1)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=CC=C3C#N | C23H26N2
